US05972975
Step B: 4-Methyl-2-(trimethylacetyl)amino-5-(1-pentyl)-pyridine
A solution of 4-methyl-2-(trimethylacetyl)amino-5-(1-pentynyl)-pyridine (225 mg, 0.87 mmol) in ethyl acetate (4.5 mL) containing platinum oxide (45 mg) was hydrogenated at atmospheric pressure for 1.5 h. The catalyst was removed by filtration through a Millex-HV 0.45 um Filter Unit. Evaporation of the filtrate gave the title compound.

reactant | 4-methyl-2-(trimethylacetyl)amino-5-(1-pentynyl)-pyridine | 0.87 mmol, 225 mg | CC1=CC(=NC=C1C#CCCC)NC(C(C)(C)C)=O | C16H22N2O
solvent | ethyl acetate | 4.5 mL | C(C)(=O)OCC | C4H8O2
catalyst | platinum oxide | 45 mg | [Pt]=O
product | 4-Methyl-2-(trimethylacetyl)amino-5-(1-pentyl)-pyridine | CC1=CC(=NC=C1CCCCC)NC(C(C)(C)C)=O | C16H26N2O
